US08497281B2
Step 1: 1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one
A mixture of 1-(1H-inden-2-yl)-pyrrolidine (5.34 g) and acrylamide (6.15 g) is stirred in argon atmosphere at 100° C. for 30 min. The temperature is then raised to 130° C. and stirring continued for another 15 min. After cooling to room temperature, water (50 mL) and acetic acid (5 drops) are added and the mixture is stirred for 30 min. The mixture is filtered and the organic phase of the filtrate is separated and washed with brine. After drying (MgSO4) and evaporating the solvent, the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 1:1→0:1) to give a brown solid that is triturated with ethyl acetate and dried to afford the title compound. Yield: 1.12 g (21% of theory); Mass spectrum (ESI+): m/z=186 [M+H]+.

reactant | 1-(1H-inden-2-yl)-pyrrolidine | 5.34 g | C1C(=CC2=CC=CC=C12)N1CCCC1 | C13H15N
reactant | acrylamide | 6.15 g | C(C=C)(=O)N | C3H5NO
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one | N1C2=C(CCC1=O)C=1C=CC=CC1C2 | C12H11NO
